US04411900
To a solution of 2-amino-4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole (1.8 g) in tetrahydrofuran (5 ml) and pyridine (10 ml) was added dropwise ethoxalyl chloride (1.1 g) under ice-cooling with stirring, and the stirring was continued at the same temperature for an hour. After concentration of the reaction mixture, the residue was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and then evaporated to dryness to give a residue, which was chromatographed on silica gel using ethyl acetate as an eluent. The eluates containing the desired compound were collected and evaporated, followed by recrystallization from a mixture of ethyl acetate and n-hexane to obtain pale yellow crystals (0.7 g) of 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-ethoxalylaminothiazole, mp 125°-128° C.

reactant | 2-amino-4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole | 1.8 g | NC=1SC=C(N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H24N4S
reactant | ethoxalyl chloride | 1.1 g | C(=O)(C(=O)OCC)Cl | C4H5ClO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-ethoxalylaminothiazole | 0.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC=1N=C(SC1)NC(=O)C(=O)OCC | C25H28N4O3S
